US07105533B2
A solution of 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-ol (134 mg, 0.55 mmol) was dissolved in CH2Cl2 (3 mL), DMSO (0.5 mL), Et3N (0.5 mL) and was treated with sulfur trioxide pyridine complex (350 mg, 2.2 mmol) at 0° C. for 12 h. The reaction mixture was diluted with water (10 mL) and the product was extracted into CH2Cl2 (3×10 mL), dried (MgSO4), concentrated and purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:9 to 1:1) to afford 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-one.

reactant | 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-ol | 0.55 mmol, 134 mg | COC=1C=C(C=CC1C1=NC=CC=C1)C(CC)O | C15H17NO2
reactant | DMSO | 0.5 mL | CS(=O)C | C2H6OS
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-one | COC=1C=C(C=CC1C1=NC=CC=C1)C(CC)=O | C15H15NO2
